US06413995B1
3.74 g of 4-[(2-methoxyethoxy)methoxy]cinnamic acid and 1.68 g of 3-(aminomethyl)pyridine were dissolved in 30 ml dimethylformamide, and stirred with 2.7 ml diethylphosphoryl cyanide and subsequently with 2.5 ml triethylamine on ice, followed by further stirring at room temperature for 1 hour. Saturated aqueous sodium bicarbonate was added to the reaction mixture, which was then extracted with ethyl acetate, washed with water, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a residue, which was then purified via column chromatography on silica gel (chloroform:methanol=50:1) to provide (E)-3-[4-[(2-methoxyethoxy)methoxy]phenyl]-N-(3-pyridylmethyl)-2-propenoic acid amide as a pale yellow oil (4.54 g, 89%).

reactant | 4-[(2-methoxyethoxy)methoxy]cinnamic acid | 3.74 g | COCCOCOC1=CC=C(C=CC(=O)O)C=C1 | C13H16O5
reactant | 3-(aminomethyl)pyridine | 1.68 g | NCC=1C=NC=CC1 | C6H8N2
reactant | diethylphosphoryl cyanide | 2.7 ml | C(C)P(=O)(CC)C#N | C5H10NOP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | (E)-3-[4-[(2-methoxyethoxy)methoxy]phenyl]-N-(3-pyridylmethyl)-2-propenoic acid amide | 4.54 g, 89% | COCCOCOC1=CC=C(C=C1)/C=C/C(=O)NCC=1C=NC=CC1 | C19H22N2O4
